US07615563B2
2-Chloro-2-phenyl-N-[4-(thiazol-2-ylsulfamoyl)-phenyl]-acetamide
Synthesized according to general procedure 1: N′-(2-thiazolyl)sulfanilamide (5.60 g, 22 mmol), pyridine (3.6 mL, 44 mmol), 2-chloro-2-phenyl acetylchloride (3.8 mL, 26.4 mmol, 1.2 equiv) in DCM (400 mL). Yield: 6.73 g (75%) of a white solid. 1H-NMR (DMSO-d6) δ 10.85 (s, 1H), 7.78-7.72 (m, 4H), 7.60-7.57 (m, 2H), 7.45-7.37 (m, 3H), 7.25 (d, J=4.6 Hz, 1H), 6.82 (d, J=4.6 Hz, 1H), 5.77 (s, 1H). LC/MS (10-99%) M/Z: M+1 obs=408.1; tR=2.61 min.

reactant | N′-(2-thiazolyl)sulfanilamide | 22 mmol, 5.60 g | C1=CC(=CC=C1N)S(=O)(=O)NC2=NC=CS2 | C9H9N3O2S2
reactant | pyridine | 44 mmol, 3.6 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-chloro-2-phenyl acetylchloride | 26.4 mmol, 3.8 mL, 1.2 equiv | ClC(C(=O)Cl)C1=CC=CC=C1 | C8H6Cl2O
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-2-phenyl-N-[4-(thiazol-2-ylsulfamoyl)-phenyl]-acetamide | ClC(C(=O)NC1=CC=C(C=C1)S(NC=1SC=CN1)(=O)=O)C1=CC=CC=C1 | C17H14ClN3O3S2
